* C:\Users\Dortiso\Downloads\Uis\Materias\Diseño\Proyecto\ProyectoLTSPICE\SimulacionComparador\Draft4.asc
V1 V+ 0 3
V2 0 V- 3
R1 N002 0 220
V3 N004 0 PULSE(0 500m 0 1n 1n 2m 4m)
V4 N003 0 450m
XU1 N004 N001 V+ 0 N002 LM358
R2 N002 N001 100k
R3 N001 N003 1k
.tran 30M
.lib Sborka.lib
.backanno
.end
